US08497274B2
(v) Production of N-(7-cyano-6-{4-fluoro-3-[(trifluoroacetyl)amino]phenoxy}-1,3-benzothiazol-2-yl)cyclopropanecarboxamide
To a solution of N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2,2,2-trifluoroacetamide (1.0 g, 2.52 mmol) in tetrahydrofuran (10 mL) were added pyridine (1.0 mL, 12.5 mmol) and cyclopropanecarbonyl chloride (395 μL, 4.35 mmol), and the mixture was stirred at room temperature for 10% hr. Pyridine (4.0 mL, 50 mmol) and cyclopropanecarbonyl chloride (100 μL, 1.10 mmol) were added, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate (100 mL), washed successively with 1N hydrochloric acid (20 mL×2), 5% aqueous sodium hydrogen carbonate solution (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→80/20), and the obtained solution was concentrated under reduced pressure. The residue was crystallized from ethyl acetate/n-hexane to give the title compound (410 mg, 38%) as a white powder.

reactant | N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 2.52 mmol, 1.0 g | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F | C16H8F4N4O2S
reactant | pyridine | 12.5 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 4.35 mmol, 395 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Pyridine | 50 mmol, 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 1.10 mmol, 100 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(7-cyano-6-{4-fluoro-3-[(trifluoroacetyl)amino]phenoxy}-1,3-benzothiazol-2-yl)cyclopropanecarboxamide | 410 mg, 38% | C(#N)C1=C(C=CC=2N=C(SC21)NC(=O)C2CC2)OC2=CC(=C(C=C2)F)NC(C(F)(F)F)=O | C20H12F4N4O3S
